US07943788B2
3-Bromo-1-(4-ethyl-2-thienylmethyl)benzene
3-Ethylthiophene and 3-bromobenzaldehyde were used and treated in a manner similar to Reference Example 9 to give the target compound. APCI-Mass m/Z 281/283 (M+H).

reactant | 3-Ethylthiophene | C(C)C1=CSC=C1 | C6H8S
reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
product | 3-Bromo-1-(4-ethyl-2-thienylmethyl)benzene | BrC=1C=C(C=CC1)CC=1SC=C(C1)CC | C13H13BrS
